US05135949
N-[4-(1-Cyano-1-methylethyl)-phenyl]-4-methoxybenzamide
Analogously to Example 25, 4-(1-cyano-1-methylethyl)-aniline is reacted with 4-methoxybenzoic acid chloride to give a yield of 85% of theory of the title compound in the form of beige crystals; m.p. 169°-171° C. A sample thereof is recrystallised from ethanol and then has a melting point of 172°-174° C.

reactant | 4-(1-cyano-1-methylethyl)-aniline | C(#N)C(C)(C)C1=CC=C(N)C=C1 | C10H12N2
reactant | 4-methoxybenzoic acid chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N-[4-(1-Cyano-1-methylethyl)-phenyl]-4-methoxybenzamide | yield of 85% | C(#N)C(C)(C)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)OC)=O | C18H18N2O2
